US06849657B2
A solution of methyl 4-[(2-{(5R)-2-oxo-5-[(1E)-3-oxooct-1-enyl]pyrrolidin-1-yl}ethyl)thio]-butanoate (0.039 g, 0.1 mmol) in 2 mL of anhydrous toluene was added dropwise to a −30° C. solution of (R)-2-methyl-CBS-oxazaborolidine (1 M in toluene, 0.05 mL, 0.05 mmol) and borane-methyl sulfide complex (10 M, 0.01 mL, 0.1 mmol). The reaction was stirred for 7 hours at −30° C. and then a solution of hydrochloric acid in methanol (2 M, 1-2 mL) was added. The solution was warmed to room temperature and the solvents were removed via reduced pressure. The crude residue was purified via chromatography yielding 11 mg of 4-[(2-{(2R)-2-[(1E,3S)-3-hydroxyoct-1-enyl]-5-oxopyrrolidin-1-yl}ethyl)thio]butanoic acid methyl ester as an oil. This was taken directly on to the next step.

reactant | methyl 4-[(2-{(5R)-2-oxo-5-[(1E)-3-oxooct-1-enyl]pyrrolidin-1-yl}ethyl)thio]-butanoate | 0.1 mmol, 0.039 g | O=C1N([C@H](CC1)\C=C\C(CCCCC)=O)CCSCCCC(=O)OC | C19H31NO4S
reactant | (R)-2-methyl-CBS-oxazaborolidine | 0.05 mmol, 1 M, 0.05 mL | B1(N2CCC[C@@H]2C(O1)(C3=CC=CC=C3)C4=CC=CC=C4)C | C18H20BNO
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 2 M, 1-2 mL | CO | CH4O
product | 4-[(2-{(2R)-2-[(1E,3S)-3-hydroxyoct-1-enyl]-5-oxopyrrolidin-1-yl}ethyl)thio]butanoic acid methyl ester | 11 mg | COC(CCCSCCN1[C@H](CCC1=O)\C=C\[C@H](CCCCC)O)=O | C19H33NO4S
